US06900215B2
To a solution of 1H-[1,2,4]triazole (30 mg, 0.435 mmol) in N,N-dimethylformamide was added sodium hydride (17 mg, 0.435 mmol) as a 60% dispersion in oil and the reaction stirred at ambient temperature for 0.5 h. To this mixture was added the previously prepared solution of 5′-(7-bromomethylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile in N,N-dimethylformamide in a dropwise manner. This mixture was allowed to stir at ambient temperature for 16 h before removal of the reaction solvent in vacuo. The residue was purified by silica gel chromatography eluting with a mixture of dichloromethane, methanol and ammonia (90:5:0.5) to give 2′-fluoro-5′-[7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile: δH (360 MHz, CDCl3) 5.57 (2H, s), 6.89 (1H, d, J 7.1), 7.41 (3H, t, J 9.5 ), 7.52-7.62 (4H, m), 7.68-7.73 (1H, m), 7.82-7.85 (1H, m), 7.92 (1H, s), 8.01 (1H, s), 8.32 (1H, s), 8.80 (1H, s); m/z (ES+) 396 (M++H).

reactant | 1H-[1,2,4]triazole | 0.435 mmol, 30 mg | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.435 mmol, 17 mg | [H-].[Na+]
reactant | 5′-(7-bromomethylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile | BrCC1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C20H12BrFN4
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2′-fluoro-5′-[7-([1,2,4]triazol-1-ylmethyl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)CN2N=CN=C2)C=2C(=CC=CC2)C#N | C22H14FN7
